US07709645B2
2-Amino-5-bromo-N,N-dimethyl-benzamide (2.00 g, 8.22 mmol), diisopropylethylamine (6.5 ml, 37.32 mmol), 4-morpholinecarbonyl chloride (4.3 ml, 37.46 mmol), and chloroform (20 ml) were combined and stirred for 18 hours at 50° C. Water was added to the mixture, and the organic layer was extracted. The organic layer was dried over sodium sulfate, concentrated in vacuo, and the crude material was purified by flash chromatography (50% to 100% ethyl acetate in hexanes) to give 1.13 g (39%) of morpholine-4-carboxylic acid (4-bromo-2-dimethylcarbamoyl-phenyl)-amide. 1H-NMR (250 MHz, DMSO-d6) δ 8.67 (s, 1H), 7.56-7.45 (m, 2H), 7.42 (t, J=9.3 Hz, 4H), 3.35-3.28 (m, 4H), 2.96-2.86 (m, 6H); MS: m/z 356.0+358.1 (M+H+).

reactant | 2-Amino-5-bromo-N,N-dimethyl-benzamide | 8.22 mmol, 2.00 g | NC1=C(C(=O)N(C)C)C=C(C=C1)Br | C9H11BrN2O
reactant | diisopropylethylamine | 37.32 mmol, 6.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-morpholinecarbonyl chloride | 37.46 mmol, 4.3 ml | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
reactant | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | Water | O | H2O
product | morpholine-4-carboxylic acid (4-bromo-2-dimethylcarbamoyl-phenyl)-amide | 1.13 g, 39% | BrC1=CC(=C(C=C1)NC(=O)N1CCOCC1)C(N(C)C)=O | C14H18BrN3O3
